* C:\Users\Omkar\Dropbox\SMPS_Design_Project\ver1.7\circuit_ver2.2.asc
V1 N011 N013 SINE(0 220 50)
D1 0 N013 1N4148
D2 0 N011 1N4148
D3 N013 N012 1N4148
D4 N011 N012 1N914
R1 N012 0 100
V2 N002 0 PULSE(0 10 0 0 0 0.01 0.02 0)
M1 N001 N003 N005 N005 NMOS
R2 N004 0 10000
R3 N002 N003 5
R4 N003 0 10
V3 N001 0 10
L1 0 N004 .000006
C1 N004 0 .000660 V=50
R5 N005 0 100
L2 N009 N010 12.12µ Rser=0.001
C2 N010 0 19.5µ
M2 N007 N008 N009 N009 AP9465GEM
V4 N007 0 6
V5 N008 0 PULSE(0 8 .1n .1u .1u 1u 2.5u)
D5 0 N009 D
M3 Vin Vswitch Vdiode Vdiode AP9465GEM
V6 Vin 0 12
V7 Vswitch 0 PULSE(0 12 0.0us .01us 0.01us 1.04us 2.5us)
D6 0 Vdiode 1N5818
L3 Vdiode Vout 12.12µ
C4 Vout 0 19.5µ
R7 Vout 0 100
S1 Vd Vinput Vinput 0 M1
V8 Vinput 0 PULSE(0 24 0.0 0.01us 0.01us .5us 1us)
R6 Voutput 0 {R}
D7 0 Vd 1N5818
C3 Voutput 0 220µ
L4 Vd Voutput 69µ
V9 N006 0 PULSE(0 5 0 25u 0.000u 0 25u)
R8 N006 0 10
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 5ms 0 0.9ms
.param R = 5
.step param R 5 20 5
.backanno
.end
